US09428452B2
4-(aminomethyl)-N-(2,4-dimethylphenyl)-N-isobutylbenzenesulfonamide
4-(N-(2,4-dimethylphenyl)-N-isobutylsulfamoyl)benzamide (263.6 mg, 0.731 mmol) was dissolved in tetrahydrofuran (THF) (10 mL) and to this solution was added borane-tetrahydrofuran complex (1 M) (2.194 mL, 2.194 mmol). The reaction was then heated to 75° C. and refluxed overnight under nitrogen. The reaction was cooled and quenched by the addition of 2 M HCl. The reaction mixture was then neutralised by the slow addition of 10 M sodium hydroxide and the product extracted to the organic phase of an aqueous work up between ethyl acetate and water. The organic phase was passed through a hydrophobic frit and concentrated in vacuo. The crude was purified by mass directed autoprep (formic acid modifier), over 3 injections. The relevant fractions were evaporated in vacuo to give the required product, 152 mg. LCMS [LCMS1] Rt 0.87 min, m/z (ES+) 347 (M+H).

reactant | 4-(N-(2,4-dimethylphenyl)-N-isobutylsulfamoyl)benzamide | 0.731 mmol, 263.6 mg | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C(=O)N)C=C1)CC(C)C | C19H24N2O3S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-(aminomethyl)-N-(2,4-dimethylphenyl)-N-isobutylbenzenesulfonamide | NCC1=CC=C(C=C1)S(=O)(=O)N(CC(C)C)C1=C(C=C(C=C1)C)C | C19H26N2O2S
